US03952114
4-(1-Hydroxyethyl)-1-methoxy-1,4-cyclohexadiene.
A solution of 40 g of 2-(4-methoxyphenyl)ethanol in 80 ml of ethanol and 800 ml of ammonia reduced with 30.4 g of sodium to yield 27.4 g, bp 87°-89° (0.7 mm), identified by nmr.

reactant | 2-(4-methoxyphenyl)ethanol | 40 g | COC1=CC=C(C=C1)CCO | C9H12O2
reactant | sodium | 30.4 g | [Na] | Na
reactant | ethanol | 80 ml | C(C)O | C2H6O
solvent | ammonia | 800 ml | N | H3N
product | 4-(1-Hydroxyethyl)-1-methoxy-1,4-cyclohexadiene | OC(C)C=1CC=C(CC1)OC | C9H14O2
